US08044213B2
A mixture of 0.021 g (0.05 mmole) of 4-(3-chloro-phenyl)-2-(6-oxiranylmethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.39a), 0.5 mL of dimethylformamide, 0.035 g (0.25 mmole) of potassium carbonate and 0.009 mL (0.1 mmole) of morpholine was heated at 100 degrees for 3 hours. The mixture was cooled, the solid was removed by filtration and the filtrate purified by reverse phase silica gel chromatography, eluting with acetonitrile-water (gradient 20:80-100:0) to give 0.012 g of 4-(3-chloro-phenyl)-2-{6-[2-hydroxy-3-(4-methyl-piperazin-1-yl)-propoxy]-benzoimidazol-1-yl}-thiazole-5-carboxylic acid amide (I.40) as a white powder. MH+/Z=514

reactant | 4-(3-chloro-phenyl)-2-(6-oxiranylmethoxy-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.05 mmole, 0.021 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OCC2OC2 | C20H15ClN4O3S
reactant | potassium carbonate | 0.25 mmole, 0.035 g | C([O-])([O-])=O.[K+].[K+]
reactant | morpholine | 0.1 mmole, 0.009 mL | N1CCOCC1 | C4H9NO
reactant | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
product | 4-(3-chloro-phenyl)-2-{6-[2-hydroxy-3-(4-methyl-piperazin-1-yl)-propoxy]-benzoimidazol-1-yl}-thiazole-5-carboxylic acid amide | 0.012 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)OCC(CN2CCN(CC2)C)O | C25H27ClN6O3S
